US07645760B2
e) N-(5-Chloro-2-{(E)-3-[(R)-2-ethyl-4-(4-fluorobenzyl)-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-acetamide.
(R)-3-Ethyl-1-(4-fluorobenzyl)-piperazine (44.4 mg, 0.2 mmol), EDC1 (76 mg, 0.4 mmol), HOBT (55 mg, 0.4 mmol) and (E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid (47.8 mg, 0.2 mmol) were dissolved in 5 ml DCM and this mixture was stirred at room temperature overnight. The mixture was diluted with 50 ml DCM and extracted 3 times with water and once with saturated sodium chloride solution. The title compound, purified by chromatography (SiO2, ethyl acetate/MeOHINH3conc, 98/2/0.2) and was isolated as pale solid (81 mg, 91%)

reactant | (R)-3-Ethyl-1-(4-fluorobenzyl)-piperazine | 0.2 mmol, 44.4 mg | C(C)[C@@H]1CN(CCN1)CC1=CC=C(C=C1)F | C13H19FN2
reactant | HOBT | 0.4 mmol, 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid | 0.2 mmol, 47.8 mg | C(C)(=O)NC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C11H10ClNO3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2-{(E)-3-[(R)-2-ethyl-4-(4-fluorobenzyl)-piperazin-1-yl]-3-oxo-propenyl}-phenyl)-acetamide | 81 mg, 91% | ClC=1C=CC(=C(C1)NC(C)=O)\C=C\C(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)CC | C24H27ClFN3O2
